US08048825B2
2-Methyl-4-(2-nitrobenzylamino)butanol (5.00 g, 21.0 mmol), triethylamine (8.49 g, 84.1 mmol) were dissolved in toluene (50 ml). Under ice cooled condition, a solution in which triphosgene (2.50 g, 8.42 mmol) was dissolved in toluene (10 ml) was slowly added dropwise thereto and heated to reflux for six hours after stirred at room temperature for one hour. The reaction mixture was poured into water and, after standing to cool, extracted with ethyl acetate. The organic layer was washed with 0.1 N hydrochloric acid water and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 6-methyl-3-(2-nitrobenzyl)-[1,3]-oxazepan-2-one (2.00 g).

reactant | 2-Methyl-4-(2-nitrobenzylamino)butanol | 21.0 mmol, 5.00 g | CC(CO)CCNCC1=C(C=CC=C1)[N+](=O)[O-] | C12H18N2O3
reactant | triethylamine | 84.1 mmol, 8.49 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 8.42 mmol, 2.50 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methyl-3-(2-nitrobenzyl)-[1,3]-oxazepan-2-one | 2.00 g | CC1CCN(C(OC1)=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C13H16N2O4
